US05378712
4.97 g of 4-cyanobenzoyl chloride, 3.45 g of L-proline and 0.73 g of tetramethylammonium sulphate in 300 ml of dichloromethane and 150ml of 5% sodium hydrogen carbonate solution are stirred for 48 hours. The aqueous phase is acidified with 3N sulphuric acid and extracted with ethyl acetate. The ethyl acetate phase is washed with saturated sodium chloride solution, dried and evaporated. Chromatography of the residue on silica gel (RP-18) using water gives 3.70 g of 1-(p-cyanobenzoyl)-L-proline. M.p. 80°-85° C.

reactant | 4-cyanobenzoyl chloride | 4.97 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | L-proline | 3.45 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | tetramethylammonium sulphate | 0.73 g | S(=O)(=O)([O-])[O-].C[N+](C)(C)C.C[N+](C)(C)C
reactant | sulphuric acid | 3N | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | 150ml | C(O)([O-])=O.[Na+]
product | 1-(p-cyanobenzoyl)-L-proline | 3.70 g | C(#N)C1=CC=C(C(=O)N2[C@H](C(=O)O)CCC2)C=C1 | C13H12N2O3
